US07259266B2
8-propyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
To a Paar bottle was added 8-prop-1-ynyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid prepared as in Example 21 d, Step 2 (150 mg, 0.409 mmole), 10% Pd/C (75 mg) and absolute EtOH (10 mL). The mixture was hydrogenated at 30 psi for 2 h. The catalyst was filtered, the solvent was removed in vacuo and the resulting oily solid triturated with hexanes to give 76 mg (50% yield) of the product as an off-white solid: ESHRMS m/z 369.0559 (M−H, C15H11F6O4, Calc'd 369.0556). 1H NMR (dmso-d6, 300 MHz) 13.38 (brs, 1H), 7.87 (s, 1H), 7.43 (s, 1H), 7.26 (s, 1H), 5.99 (q, 1H, J=7.3 Hz), 2.51-2.66 (m, 2H), 1.48-1.60 (m, 2H), 0.86 (t, 3H, J=7.3 Hz).

reactant | 8-prop-1-ynyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | C(#CC)C=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)O)OC(F)(F)F | C15H8F6O4
catalyst | Pd/C | 75 mg | [Pd] | Pd
solvent | EtOH | 10 mL | CCO | C2H6O
product | 8-propyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 76 mg, 50% yield | C(CC)C=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)O)OC(F)(F)F | C15H12F6O4
